US06060468
10-Chloro-10,11-dihydrodibenzo[b,f]thiepine (10 g, 0.041 mol, prepared as described in Monatshefte 96, 182, 1965) was slowly added to a mixture of 2-bromoethanol (44 g, 0.35 mol) and powdered potassium carbonate (10 g, 0.072 mol) at room temperature. After stirring for 6 h, dichloromethane (15 ml) was added, and the reaction mixture was heated at 50° C. for 3 h. After cooling, dichloromethane (35 ml) was added and the mixture was filtered. The dichloromethane was evaporated and excess of 2-bromoethanol was distilled off in vacuo. The oily residue was dissolved in benzene (100 ml), washed with water (3×70 ml), dried (K2CO3) and the solvent was evaporated to give 13.8 g of crude 10-(2-bromoethoxy)-10,11-dihydrodibenzo[b,f]thiepine as an oil.

reactant | 10-Chloro-10,11-dihydrodibenzo[b,f]thiepine | 0.041 mol, 10 g | ClC1CC2=C(SC3=C1C=CC=C3)C=CC=C2 | C14H11ClS
reactant | 2-bromoethanol | 0.35 mol, 44 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 0.072 mol, 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 10-(2-bromoethoxy)-10,11-dihydrodibenzo[b,f]thiepine | 13.8 g | BrCCOC1CC2=C(SC3=C1C=CC=C3)C=CC=C2 | C16H15BrOS
